US07777047B2
To a solution of triphenylphosphine oxide (1.3 g) in dichloromethane (3 mL) was added dropwise trifluoromethanesulfonic anhydride (0.59 mL) at 0° C., and the mixture was stirred at 0° C. for 15 min. The obtained suspension was diluted with dichloromethane (5 mL), and a solution of N-({5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}carbonyl)-S-trityl-D-cysteine methyl ester (0.60 g) and thioanisole (0.74 mL) in dichloromethane (8 mL) was added. The reaction mixture was stirred at 0° C. for 2 hr, and saturated aqueous sodium hydrogencarbonate solution was added. The mixture was concentrated, and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:1, volume ratio) to give a mixture (0.39 g) of methyl (4S)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-4-carboxylate and triphenylphosphine oxide. The obtained mixture of the ester and triphenylphosphine oxide was dissolved in tetrahydrofuran (3 mL), sodium borohydride (0.010 mg) was added at 0° C., and methanol (1.5 mL) was added dropwise at 0° C. The reaction mixture was stirred at 0° C. for 30 min, and then at room temperature for 2 hr. Water was added, the mixture was concentrated, and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate-methanol (4:1:0-0:10:1, volume ratio) to give the title compound (0.076 g, yield 20%) as colorless crystals. melting point 146.6-146.7° C.

reactant | triphenylphosphine oxide | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.59 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-({5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}carbonyl)-S-trityl-D-cysteine methyl ester | 0.60 g | COC([C@H](NC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H40N4O7S2
reactant | thioanisole | 0.74 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | methyl (4S)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-4-carboxylate | 0.39 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC[C@@H](N1)C(=O)OC | C22H24N4O6S2
